US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-allylurea dihydrochloride
A solution of triethylamine (2.0 g; 20 mmole) in methylene chloride was added dropwise to a mixture of 1-(3-amino-propyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (7.54 g; 20 mmole) and allyl isocyanate (1.66 g; 20 mmole) in methylene chloride. After the addition was completed the mixture was washed with water and the solvent removed. The resulting orange oil was purified on a silica gel column (methylene chloride/methanol; 9:1), precipitated with ethereal hydrochloric acid, and recrystallized from ethanol/water to provide the title compound (2.1 g; 25% yield) as colorless crystals, m.p. 232°-234° C.

reactant | triethylamine | 20 mmole, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3-amino-propyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 20 mmole, 7.54 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | allyl isocyanate | 20 mmole, 1.66 g | C(C=C)N=C=O | C4H5NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-allylurea dihydrochloride | 2.1 g, 25% yield | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NCC=C)C=C1 | InChI=1S/C18H27ClN4O.2ClH/c1-2-8-20-18(24)21-9-3-10-22-11-13-23(14-12-22)15-16-4-6-17(19)7-5-16;;/h2,4-7H,1,3,8-15H2,(H2,20,21,24);2*1H
